US06492400B1
Part C: N-(3-cyanophenyl)-N′-[3-[4-(phenylmethyl)-1-piperidinyl]propyl]urea
4-benzyl-1-(3-amino-n-prop-1-yl)piperidine (300 mg, 1.29 mmol, 1 eq) was dissoved in THF at 25° C. under N2 then 3-cyanophenyl isocyanate (186 mg, 1.29 mmol, 1 eq) was added. TLC after 30 minutes shows the reaction complete. The solvent was removed in vacuo then the residue was purified over silica gel in 100% EtOAc to 8:2 chloroform/MeOH to yield 437 mg of an amber oil as product. NMR (300 MHz, DMSO-d6) δ9.90-9.50 (m, 1H); 9.32 (s, 1H); 7.93 (s, 1H); 7.59 (d, 1H, J=7 Hz); 7.43 (t, 1H, J=7 Hz); 7.40-7.24 (m, 3H); 7.24-7.10 (m, 3H); 6.68 (t, 1H, J=7 Hz); 3.50-3.25 (m, 2H); 3.25-3.07 (m, 2H); 3.07-2.90 (m, 2H); 2.90-2.60 (m, 2H); 2.60-2.40 (m, 2H); 2.00-1.60 (m, 5H); 1.60-1.30 (m, 2H).

reactant | 4-benzyl-1-(3-amino-n-prop-1-yl)piperidine | 1.29 mmol, 300 mg, 1 eq | C(C1=CC=CC=C1)C1CCN(CC1)CCCN | C15H24N2
reactant | 3-cyanophenyl isocyanate | 1.29 mmol, 186 mg, 1 eq | C(#N)C=1C=C(C=CC1)N=C=O | C8H4N2O
solvent | THF | C1CCOC1 | C4H8O
product | N-(3-cyanophenyl)-N′-[3-[4-(phenylmethyl)-1-piperidinyl]propyl]urea | 437 mg | C(#N)C=1C=C(C=CC1)NC(=O)NCCCN1CCC(CC1)CC1=CC=CC=C1 | C23H28N4O
